US09062092B2
Compound 48d. Ethyl 5-(1-(tosyloxy)ethyl)-1,3-dioxane-5-carboxylate
To a mixture of ethyl 5-(1-hydroxyethyl)-1,3-dioxane-5-carboxylate (16.8 g, 83 mmol) in dry pyridine (40 mL) at 0° C. was added 4-toluenesulfonyl chloride (19.1 g, 99 mmol). The mixture was stirred at rt for 16 h. Water (40 mL) was added, and the mixture was extracted with ethyl acetate (2×400 mL). The organic layer was washed with brine (3×). After concentrated in vacuo, the crude product was purified by silica gel chromatography eluting with petroleum ether/ethyl acetate 25:1 to 5:1 to provide the title compound (22.7 g, 76%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 1.26 (m, 3H), 1.34 (d, J=6.8 Hz, 3H), 2.45 (s, 3H), 3.80 (d, J=11.6 Hz, 1H), 3.87 (d, J=11.6 Hz, 1H), 4.02 (d, J=11.6 Hz, 1H), 4.08 (d, J=12.0 Hz, 1H), 4.20-4.17 (m, 2H), 5.03-4.98 (m, 1H), 7.34 (d, J=8.0 Hz, 2H), 7.79 (d, J=8.8 Hz, 2H).

reactant | ethyl 5-(1-hydroxyethyl)-1,3-dioxane-5-carboxylate | 83 mmol, 16.8 g | OC(C)C1(COCOC1)C(=O)OCC | C9H16O5
reactant | 4-toluenesulfonyl chloride | 99 mmol, 19.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | 40 mL | O | H2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 5-(1-(tosyloxy)ethyl)-1,3-dioxane-5-carboxylate | 22.7 g, 76% | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C)C1(COCOC1)C(=O)OCC | C16H22O7S
